US04680054
A mixture of 50 grams (454 millimoles) of ortho-fluorotoluene and 42.8 grams (545 millimoles) of acetyl chloride was dissolved in 250 milliliters of methylene chloride, and then 72.7 grams (545 millimoles) of anhydrous aluminum chloride was gradually added thereto while cooling with ice and stirring. The resulting mixture was further stirred for 2 hours while cooling with ice. Then the reaction mixture was added to 1,200 milliliters of 5% hydrochloric acid, which was then allowed to separate into aqueous and organic layers. The organic layer thus obtained was washed with a 5% aqueous solution of sodium carbonate and dried over anhydrous sodium sulfate and, thereafter, the methylene chloride was distilled away under reduced pressure. Thus, as a product, 67.9 grams (446 millimoles) of 3-methyl-4-fluoroacetophenone was obtained (yield, 98%).

reactant | ortho-fluorotoluene | 454 millimoles, 50 grams | FC1=C(C=CC=C1)C | C7H7F
reactant | acetyl chloride | 545 millimoles, 42.8 grams | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 545 millimoles, 72.7 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 1,200 milliliters | Cl | ClH
solvent | methylene chloride | 250 milliliters | C(Cl)Cl | CH2Cl2
product | 3-methyl-4-fluoroacetophenone | 446 millimoles, 67.9 grams | CC1=C(C=CC(=C1)C(=O)C)F | C9H9FO
